US08003811B2
Step B: (S)-5-(nitrooxy)hexanoic acid
(S)-tert-butyl-5-(nitrooxy)hexanoate (590 mg, 2.53 mmol), was dissolved in CH2Cl2 (20 mL). HClgas was bubbled into the solution until the disappearance of the starting material. The solution was reduced to a small volume and diluted in CH2Cl2 few times to remove residual acidity, then used without further purification.

reactant | (S)-tert-butyl-5-(nitrooxy)hexanoate | 2.53 mmol, 590 mg | C(C)(C)(C)OC(CCC[C@H](C)O[N+](=O)[O-])=O | C10H19NO5
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-5-(nitrooxy)hexanoic acid | [N+](=O)([O-])O[C@H](CCCC(=O)O)C | C6H11NO5
